US08119669B2
4-{4-[2,4-Dioxo-3-(2-pyrrolidin-1-yl-ethyl)-thiazolidin-5-ylidenemethyl]-2-fluoro-phenoxy}-3-trifluoromethyl-benzonitrile
The title compound was prepared using 4-[4-(2,4-Dioxo-thiazolidin-5-ylidenemethyl)-2-fluoro-phenoxy]-3-trifluoromethyl-benzonitrile and 1-(2-Chloro-ethyl)-pyrrolidine as described in Example 1. 1H NMR (400 Hz, DMSO-d6) δ8.49 (s, 1H), 8.21 (dd, 1H), 8.05 (s, 1H), 7.87 (d, 1H), 7.64 (m, 2H), 7.31 (d, 1H), 3.86 (t, 2H), 2.76 (bs, 2H), 2.60 (bs, 4H), 1.73 (bs, 4H); LC/MS (m/z) [M+1]+ 506.2 (calculated for C24H20F4N3O3S, 506.49).

reactant | 4-[4-(2,4-Dioxo-thiazolidin-5-ylidenemethyl)-2-fluoro-phenoxy]-3-trifluoromethyl-benzonitrile | O=C1SC(C(N1)=O)=CC1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)F | C18H8F4N2O3S
reactant | 1-(2-Chloro-ethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 4-{4-[2,4-Dioxo-3-(2-pyrrolidin-1-yl-ethyl)-thiazolidin-5-ylidenemethyl]-2-fluoro-phenoxy}-3-trifluoromethyl-benzonitrile | O=C1SC(C(N1CCN1CCCC1)=O)=CC1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)F | C24H19F4N3O3S
